US04663341
Preparation of N,3-bis-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide
In a 500 ml round bottomed flask was suspended 55 g of 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole in 250 ml of diethyl ether. The suspension was warmed to reflux and 33 g of 4-chlorophenyl isocyanate was added at a rate to maintain reflux. After cooling and standing overnight the precipitated product was filtered yielding 78 g of white solid. mp 173°-175° C.

reactant | 3-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole | 55 g | ClC1=CC=C(C=C1)C1=NNCC1C1=CC=CC=C1 | C15H13ClN2
reactant | 4-chlorophenyl isocyanate | 33 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | diethyl ether | 250 ml | C(C)OCC | C4H10O
product | N,3-bis-(4-chlorophenyl)-4-phenyl-4,5-dihydro-1H-pyrazole-1-carboxamide | 78 g | ClC1=CC=C(C=C1)NC(=O)N1N=C(C(C1)C1=CC=CC=C1)C1=CC=C(C=C1)Cl | C22H17Cl2N3O
